US07659267B2
Methyl 2-amino-4-cyanobenzoate
Potassium carbonate (60.3 g, 436 mmol) was added to a methanol suspension (850 mL) of methyl 4-cyano-2-[(trifluoroacetyl)amino]benzoate (108 g, 397 mmol) and the mixture was stirred at 50° C. for 2 hours. After cooling, methanol was distilled off under reduced pressure and water was added to the residue. The mixture was extracted twice with ethyl acetate. The combined organic layers were washed with 0.5M hydrochloric acid and then saturated brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was crystallized from ethyl acetate-diisopropyl ether to give the title compound (53.9 g, 76%).

reactant | Potassium carbonate | 436 mmol, 60.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-cyano-2-[(trifluoroacetyl)amino]benzoate | 397 mmol, 108 g | C(#N)C1=CC(=C(C(=O)OC)C=C1)NC(C(F)(F)F)=O | C11H7F3N2O3
solvent | methanol | 850 mL | CO | CH4O
product | Methyl 2-amino-4-cyanobenzoate | 53.9 g, 76% | NC1=C(C(=O)OC)C=CC(=C1)C#N | C9H8N2O2
